US07851493B2
To a boiling solution of 23.5 g 2-(4-methoxy-phenyl)-4-methyl-oxazole-5-carboxylic acid ethyl ester in 250 ml tetrachloro-methane were added portionwise a mixture of 5.92 g 2,2′-azobis(2-methylpropionitrile) and 19.3 g N-bromosuccinimide. The reaction mixture was refluxed for seven hours. The cooled reaction mixture was filtered over a celite pad and the solvent removed in vacuo to obtain 30.7 g of crude 4-bromomethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester. The material was used without further purification in the next step.

reactant | 2-(4-methoxy-phenyl)-4-methyl-oxazole-5-carboxylic acid ethyl ester | 23.5 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)C | C14H15NO4
reactant | 2,2′-azobis(2-methylpropionitrile) | 5.92 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 19.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloro-methane | 250 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester | 30.7 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)CBr | C14H14BrNO4
